* C:\Users\nicho\OneDrive - UBC\GitHub\Rocket\thrust_vectoring_consolidated\electrical-hardware\ESC\FETsims.asc
* Generated by LTspice 24.1.10 for Windows.
V§BATT+ N001 0 22V
V§High N003 Vld PULSE(0 12 0 10n 10n 4u 10u)
V§Low N006 0 PULSE(0 12 5u 10n 10n 4u 10u)
L1 N001 Vhd 1n Rpar=1u
L2 Vls 0 1n Rser=1u
R1 Vld N004 0.5
D3 Vhs Vhd MBR745
L4 Vhs Vld 1n Rser=1u
D1 Vls Vld MBR745
R2 N002 N003 1
R3 N005 N006 1
L3 N004 0 10µ
X§U1 Vhd N002 Vhs stl130n6f7_V2 ;§pnba drain)gate)source
X§U2 Vld N005 Vls stl130n6f7_V2 ;§pnba drain)gate)source
.model D D
.lib C:\Users\nicho\AppData\Local\LTspice\lib\cmp\standard.dio
.param Chgd=1E-6 Chgs=1E-6 Chds=1E-12 Clgd=1E-12 Clgs=1E-12 Clds=1E-12
* 10kHz  -> 100us: PULSE(0 12 0 10n 10n 45u 100u) : PULSE(0 12 50u 10n 10n 45u 100u)\n50kHz  -> 20us:  PULSE(0 12 0 10n 10n 8u 20u)   : PULSE(0 12 10u 10n 10n 8u 20u)\n100kHz -> 10us:  PULSE(0 12 0 10n 10n 4u 10u)   : PULSE(0 12 5u 10n 10n 4u 10u)
.lib stl130n6f7_V2.LIB
.tran 0 1 0 1n
.lib C:\Users\nicho\OneDrive - UBC\GitHub\Rocket\thrust_vectoring_consolidated\electrical-hardware\ESC\stl130n6f7_V2.LIB
.backanno
.end
